US08648069B2
4-(azidomethyl)tetrahydro-2H-pyran
4-(Iodomethyl)tetrahydro-2H-pyran (4.76 g, 21.1 mmol) was dissolved in dimethyl sulfoxide (25 mL). Sodium azide (2.70 g, 41.5 mmol) was added and the mixture was stirred at ambient temperature overnight. The resulting slurry was diluted with diethyl ether and washed with water. The organic layer was concentrated under reduced pressure to afford the title compound. The product was used directly in subsequent reactions without characterization.

reactant | 4-(Iodomethyl)tetrahydro-2H-pyran | 21.1 mmol, 4.76 g | ICC1CCOCC1 | C6H11IO
reactant | Sodium azide | 41.5 mmol, 2.70 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(azidomethyl)tetrahydro-2H-pyran | N(=[N+]=[N-])CC1CCOCC1 | C6H11N3O
